US09065058B2
Step 2: Synthesis of 2-[4-{3-(Dibenzofuran-4-yl)-9H-carbazol-9-yl}phenyl]-1-phenylbenzimidazole (abbreviation: DBFCzBIm-II)
To a 100-mL three-neck flask were added 0.70 g (1.0 mmol) of 2-(4-bromophenyl)-3-phenylbenzimidazole and 0.67 g (1.0 mmol) of 4-(9H-carbazol-3-yl)dibenzofuran, and the air in the flask was replaced with nitrogen. To this mixture were added 15 mL of toluene, 0.10 mL of tri(tert-butyl)phosphine (a 10 wt % hexane solution), 0.48 g (4.3 mmol) of sodium tert-butoxide. This mixture was degassed while being stirred under reduced pressure. This mixture was stirred at 110° C. for 20 hours. After the stirring, the mixture was washed twice with about 30 mL of water, and the mixture was separated into an organic layer and an aqueous layer. Then, the aqueous layer was subjected to extraction twice with about 30 mL of toluene. The organic layer and the solution of the extract were combined and washed once with about 100 mL of saturated brine. The obtained organic layer was dried over magnesium sulfate, and this mixture was subjected to filtration through Celite (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 531-16855), Florisil (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 540-00135), and alumina. The obtained filtrate was concentrated to give a brown solid. The obtained brown solid was purified by silica gel column chromatography (a developing solvent in which the ethyl acetate/toluene ratio was 5:95), and further recrystallized from hexane/toluene, so that 0.86 g of a pale brown solid was obtained in 71% yield. The synthesis scheme of Step 2 is illustrated in (b-2).

reactant | 2-(4-bromophenyl)-3-phenylbenzimidazole | 1.0 mmol, 0.70 g | BrC1=CC=C(C=C1)C=1N(C2=C(N1)C=CC=C2)C2=CC=CC=C2 | C19H13BrN2
reactant | 4-(9H-carbazol-3-yl)dibenzofuran | 1.0 mmol, 0.67 g | C1=CC(=CC=2C3=CC=CC=C3NC12)C1=CC=CC2=C1OC1=C2C=CC=C1 | C24H15NO
reactant | tri(tert-butyl)phosphine | 0.10 mL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | sodium tert-butoxide | 4.3 mmol, 0.48 g | CC(C)([O-])C.[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[4-{3-(Dibenzofuran-4-yl)-9H-carbazol-9-yl}phenyl]-1-phenylbenzimidazole | 71% yield | C1=CC=C(C=2OC3=C(C21)C=CC=C3)C=3C=CC=2N(C1=CC=CC=C1C2C3)C3=CC=C(C=C3)C3=NC2=C(N3C3=CC=CC=C3)C=CC=C2 | C43H27N3O
